2124-03-06 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 57 yo male with Diabetes Mellitus, A. fib, CHF, here
   with altered mental status, now intubated.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-3-6**] 03:00 AM
 NASAL SWAB - At [**2124-3-6**] 06:42 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-3-6**] 06:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-6**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 74 (74 - 88) bpm
   BP: 102/62(71) {98/52(62) - 102/62(71)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             3,111 mL
   PO:
             TF:
   IVF:
   511 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    760 mL
   Urine:
   760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,351 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/59/66//3
   Ve: 9.3 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General: Intubated, sedated, morbidly obese
   HEENT: Sclera anicteric, NC/AT, ETT in place
   Neck: supple, JVP difficult to assess due to body habitus
   Lungs: Clear to auscultation anteriorly
   CV: irregularly irregular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, soft, non-distended, bowel sounds present, no rebound
   tenderness or guarding, no organomegaly
   Ext: Warm, chronic venous stasis changes
   Skin: Diffuse psoriatic plaques covering >50% BSA, areas of excoriation
   and dried blood
   Labs / Radiology
        [image002.jpg]
                             [**2124-3-6**]  04:21 AM
   TCO2
   33
   Other labs: Lactic Acid:1.3 mmol/L
   Assessment and Plan
   57 yo male with Diabetes Mellitus, A. fib, CHF, here with altered
   mental status, now intubated.
   .
   1. Altered mental status. Source of AMS remains unclear given inability
   to obtain history due to intubation and inability to get appropriate
   imaging due to obesity. CXR shows possible RUL infiltrate. Per OSH
   records the circumstances of his fall are unclear.  S and U tox
   negative. No ABG obtained prior to intubation so unclear if hypercarbia
   played a role. Unable to obtain LP due to size. Baseline mental status
   is unknown.
   - vanco/ceftriaxone/acyclovir empirically
   - IR guided LP in am
   - ABG to evaluate acid base status, though currently has been intubated
   for several hours
   - obtain prior medical records if possible to gather more information
   - wean sedation to better assess MS
   .
   2. Leukocytosis. Elevated WBC raises the possibility of infection as
   cause of AMS. UA negative. Unable to get CT scan due to patient size.
   ? RUL infiltrate on CXR, however poor study and difficult to
   interpret.  Unable to assess for h/o meningismus and therefore started
   on empiric treatment for this.
   - blood, urine cultures sent from ED
   - Send sputum culture
   - LP by IR in am
   - vanc/ceftriaxone/acyclovir to cover meningitis given unable to obtain
   any history
   .
   3. Respiratory failure. Unable to obtain documentation regarding reason
   for intubation.
   - propofol for sedation
   - sputum sample
   - SBT in AM
   .
   4. A. fib. Patient in A.fib with RVR. On toprol at home.
   - transition from dilt drip to dilt q6 hours
   .
   5. Elevated CK. Unclear how long patient was down for, but elevated CK
   can be attributed to this. No EKG for comparison, but elevated CK does
   not appear to be cardiac in nature.
   - Cont. to trend
   - IVF to maintain UOP given risk for rhabdo if increases
   .
   6. ?RUL infiltrate. Aspiration versus PNA.
   - vanco/ceftriaxone to cover meningitis and PNA as well
   .
   7. CHF. Extremely difficult to assess volume status in this patient due
   to obesity. Received lasix at OSH for ? CHF.
   - BNP no that elevated here
   - monitor Is & Os
   - keep even for now
   .
   FEN: NPO, replete electrolytes, hold tube feeds given possibility of
   extubation tomorrow after LP
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code: presumed full
   .
   Communication: Patient --> try to obtain contact info of family or
   friend in AM
   .
   Disposition: ICU care as patient is intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-6**] 03:44 AM
   18 Gauge - [**2124-3-6**] 03:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-07 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: This is a 57 yo male with Diabetes Mellitus, A. fib,
   CHF, here with altered mental status, now intubated.
   24 Hour Events:
   - TRANSTHORACIC ECHO
 Unable to get any good windows.  Patient ordered
   for TEE this AM.
   - CT head negative for acute intracranial process
   - LP attempted last night but unsuccessful, patient ordered for IR
   guided LP
   - Patient off dilt gtt
   - A-Line and RIJ placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-6**] 08:16 PM
   Acyclovir - [**2124-3-7**] 12:19 AM
   Ceftriaxone - [**2124-3-7**] 06:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-7**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-7**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 87 (57 - 89) bpm
   BP: 119/74(88) {93/54(66) - 127/78(92)} mmHg
   RR: 18 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 20 (18 - 20)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                 10,234 mL
                                                                  1,110 mL
   PO:
   TF:
   IVF:
                                                                  7,394 mL
                                                                  1,110 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    275 mL
   Urine:
                                                                  1,387 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,847 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/48/95.[**Numeric Identifier 218**]/29/3
   Ve: 11.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: Intubated, sedated, morbidly obese
   HEENT: Sclera anicteric, NC/AT, ETT in place
   Neck: supple, JVP difficult to assess due to body habitus
   Lungs: Clear to auscultation anteriorly
   CV: irregularly irregular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, soft, non-distended, bowel sounds present, no rebound
   tenderness or guarding, no organomegaly
   Ext: Warm, chronic venous stasis changes
   Skin: Diffuse psoriatic plaques covering >50% BSA, areas of excoriation
   and dried blood
   Labs / Radiology
   278 K/uL
   11.8 g/dL
   145 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   18 mg/dL
   112 mEq/L
   147 mEq/L
   37.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2124-3-6**]  04:21 AM
                             [**2124-3-6**]  04:52 AM
                             [**2124-3-6**]  01:55 PM
                             [**2124-3-6**]  02:00 PM
                             [**2124-3-6**]  06:15 PM
                             [**2124-3-6**]  11:51 PM
                             [**2124-3-7**]  12:00 AM
                             [**2124-3-7**]  04:17 AM
                             [**2124-3-7**]  04:27 AM
                             [**2124-3-7**]  06:40 AM
   WBC
   12.7
   12.9
   Hct
   36.6
   37.2
   Plt
   281
   278
   Cr
   1.1
   1.0
   0.9
   0.9
   TropT
   0.02
   TCO2
   33
   30
   30
   31
   31
   31
   Glucose
   [**Telephone/Fax (3) 6667**]45
   Other labs: PT / PTT / INR:15.7/26.7/1.4, CK / CKMB /
   Troponin-T:466/6/0.02, ALT / AST:24/26, Alk Phos / T Bili:101/0.5,
   Lactic Acid:1.0 mmol/L, LDH:206 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
    This is a 57 yo male with Diabetes Mellitus, A. fib, CHF, here with
   altered mental status, now intubated.
   .
   1. Altered mental status. Source of AMS remains unclear given inability
   to obtain history due to intubation and inability to get appropriate
   imaging due to obesity. Differential includes primary CNS process such
   as seizure, meningitis, stroke (possible embolic in setting of afib off
   anticoagulation) vs. toxic-metabolic process.  No indication of
   ingestion and tox screen negative both here and at OSH.  Given WBC
   count infection is of concern.  CXR shows possible RUL infiltrate,
   worsened overnight with IVF. UA unremarkable, blood cx pending.  Unable
   to obtain LP or head imaging due to habitus.   Per EMS there were
   alcohol bottles at scene, however EtOH negative.  Baseline mental
   status is unknown.
   - vanco/ceftriaxone/acyclovir empirically for meningitis, will also
   cover for PNA
   - discuss head CT with radiology given high concern for intracranial
   process such as bleed
   - Consider LP once head CT done if no bleed, likely will be culture
   neg. but would still expect leukocytosis if meningitis
   - MVI, thiamine, folate given unknown EtOH history and alcohol found at
   scene
   - obtain prior medical records if possible to gather more information
   - wean sedation to better assess MS
   - EEG to look for signs of seizure
   - Consider neuro consult if above negative
   .
   2. Leukocytosis. Elevated WBC raises the possibility of infection as
   cause of AMS. UA negative. Unable to get CT scan due to patient size.
   ? RUL infiltrate on CXR, however poor study and difficult to
   interpret.  Concerning for aspiration vs. CAP.  Unable to assess for
   h/o meningismus and therefore started on empiric treatment for this.
   Has increased resp. secretions and CXR worse this morning.
   - blood, urine cultures sent from ED
   - Send sputum culture
   - LP after head CT
   - vanc/ceftriaxone/acyclovir to cover meningitis given unable to obtain
   any history
   .
   3. Hypotension: Became progressively hypotensive this morning.
   Concerning for sepsis.
   - Aggressive IVF resuscitation
   - Place CVL
   - Follow UOP
   - Pressors if needed
   .
   4. Respiratory failure. Unable to obtain documentation regarding reason
   for intubation.  Appears to have been [**1-10**] mental status.  Likely has
   component of obstructive sleep apnea given habitus.  Now with likely
   infiltrate. Requires increased PEEP given chest wall pressure.
   - propofol for sedation , try to wean
   - sputum sample
   - a line to monitor serial ABG and titrate vent settings
   .
   5. A. fib. Patient in A.fib with RVR. On toprol at home.  Dilt gtt
   stopped due to relative bradycardia
   - transition from dilt drip to dilt q6 hours
   .
   6. Elevated CK. Unclear how long patient was down for, but elevated CK
   can be attributed to this. No EKG for comparison, but elevated CK does
   not appear to be cardiac in nature.
   - Cont. to trend
   - IVF to maintain UOP given risk for rhabdo if increases
   . .
   7. CHF. Extremely difficult to assess volume status in this patient due
   to obesity. Received lasix at OSH for ? CHF.
   - BNP no that elevated here
   - monitor Is & Os
   - IVFs as above
   - TTE to assess EF
   .
   FEN: NPO, replete electrolytes, place OG tube and start TFs once LP
   performed given unlikely to be extubated in next 24 hours.
   .
   Prophylaxis: Subcutaneous heparin , mouth care
   .
   Access: peripherals
   .
   Code: presumed full
   .
   Communication: Patient --> try to obtain contact info of family or
   friend in AM
   .
   Disposition: ICU care as patient is intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-6**] 03:44 AM
   18 Gauge - [**2124-3-6**] 03:45 AM
   Arterial Line - [**2124-3-6**] 01:04 PM
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-07 09:25:00 Physician Attending Progress Note
Chief Complaint: Unresponsive in field, respriatory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2124-3-6**] 01:00 PM
 ARTERIAL LINE - START [**2124-3-6**] 01:04 PM
 MULTI LUMEN - START [**2124-3-6**] 01:05 PM
 SPUTUM CULTURE - At [**2124-3-6**] 02:27 PM
   HR contolled, now off diltiazem drip.
   Unsuccessful attempts at LP last PM.
   Facial grimacing to mouth care.
   Moving legs spontaneously.
   Remains intubated, mechanically ventilated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-3-7**] 06:00 AM
   Vancomycin - [**2124-3-7**] 07:38 AM
   Acyclovir - [**2124-3-7**] 07:38 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-7**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash, Psoriatic plaques,
   diffuse
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-3-7**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 94 (65 - 94) bpm
   BP: 117/72(86) {93/54(66) - 127/78(92)} mmHg
   RR: 17 (7 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 21 (18 - 21)mmHg
   Mixed Venous O2% Sat: 74 - 74
   Total In:
                                                                 10,234 mL
                                                                  1,944 mL
   PO:
   TF:
   IVF:
                                                                  7,394 mL
                                                                  1,944 mL
   Blood products:
   Total out:
                                                                  1,387 mL
                                                                    410 mL
   Urine:
                                                                  1,387 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,847 mL
                                                                  1,534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/48/95.[**Numeric Identifier 218**]/29/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, Small caliber pupils
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Diffuse psoriatic plaques
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed, Moves toes spontaneously
   Labs / Radiology
   11.8 g/dL
   278 K/uL
   145 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   18 mg/dL
   112 mEq/L
   147 mEq/L
   37.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2124-3-6**]  04:21 AM
                             [**2124-3-6**]  04:52 AM
                             [**2124-3-6**]  01:55 PM
                             [**2124-3-6**]  02:00 PM
                             [**2124-3-6**]  06:15 PM
                             [**2124-3-6**]  11:51 PM
                             [**2124-3-7**]  12:00 AM
                             [**2124-3-7**]  04:17 AM
                             [**2124-3-7**]  04:27 AM
                             [**2124-3-7**]  06:40 AM
   WBC
   12.7
   12.9
   Hct
   36.6
   37.2
   Plt
   281
   278
   Cr
   1.1
   1.0
   0.9
   0.9
   TropT
   0.02
   TCO2
   33
   30
   30
   31
   31
   31
   Glucose
   [**Telephone/Fax (3) 6667**]45
   Other labs: PT / PTT / INR:15.7/26.7/1.4, CK / CKMB /
   Troponin-T:466/6/0.02, ALT / AST:24/26, Alk Phos / T Bili:101/0.5,
   Lactic Acid:1.0 mmol/L, LDH:206 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   Altered mental status, pneumonia (aspiration)
   RESPRIATORY FAILURE -- intubated predominately for airway protection
   (very difficult, prolonged intubation attempt).  Acceptable ABG,
   evidence for .  Maintain mechanical ventilation.
   PNEUMONIA -- continue empirical antimicrobials.  Follow CXR.
   RHABDOMYOLYSIS -- elevated CPK.  Monitor, trend CPK.
   HYPERNATREMIA -- provide free H2O
   ALTERED MENTAL STATUS (NOT DELIRIUM) -- Unresponsiveness in the field.
   Some improvement in neurological status this AM -- plan to exam during
   daily wake-up (off Propofol).  Head CT scan unrevealing for CNS bleed.
   Concern include CNS infection, seizure, anoxic brain injury.  Plan EEG,
   LP repeat attempt, Neurology consultation.
   A-FIB -- rate controlled.  Monitor HR.  Awaiting echo.
   IMPAIRED SKIN INTEGRITY -- Psoriasis --> local treatment.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-6**] 03:44 AM
   18 Gauge - [**2124-3-6**] 03:45 AM
   Arterial Line - [**2124-3-6**] 01:04 PM
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2124-03-08 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2124-3-7**] 01:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2124-3-7**] 08:30 PM
   - Patient went for MRI in the evening and did not fit into MRI machine
   - Has been sedated on propofol
   - On dilt drip at low rate
   - Had NSVT x 7 this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-7**] 08:30 PM
   Acyclovir - [**2124-3-8**] 12:00 AM
   Ceftriaxone - [**2124-3-8**] 06:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2124-3-7**] 10:50 AM
   Famotidine (Pepcid) - [**2124-3-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-8**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 92 (90 - 155) bpm
   BP: 112/68(82) {95/46(62) - 166/107(126)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 24 (14 - 26)mmHg
   Total In:
                                                                  4,580 mL
                                                                    735 mL
   PO:
   TF:
   IVF:
                                                                  4,580 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    290 mL
   Urine:
                                                                  1,145 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,435 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 435 (435 - 435) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI: 105
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/48/124/29/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 248
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   310 K/uL
   11.7 g/dL
   128 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   13 mg/dL
   107 mEq/L
   142 mEq/L
   35.7 %
   9.7 K/uL
        [image002.jpg]
                             [**2124-3-6**]  01:55 PM
                             [**2124-3-6**]  02:00 PM
                             [**2124-3-6**]  06:15 PM
                             [**2124-3-6**]  11:51 PM
                             [**2124-3-7**]  12:00 AM
                             [**2124-3-7**]  04:17 AM
                             [**2124-3-7**]  04:27 AM
                             [**2124-3-7**]  06:40 AM
                             [**2124-3-8**]  03:25 AM
                             [**2124-3-8**]  03:34 AM
   WBC
   12.9
   9.7
   Hct
   37.2
   35.7
   Plt
   278
   310
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   30
   30
   31
   31
   31
   31
   Glucose
   176
   172
   145
   128
   Other labs: PT / PTT / INR:15.7/26.7/1.4, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:24/26, Alk Phos / T Bili:101/0.5,
   Differential-Neuts:77.1 %, Lymph:11.4 %, Mono:6.5 %, Eos:4.8 %, Lactic
   Acid:1.0 mmol/L, LDH:206 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, OSA, here
   with altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   .
   # Altered mental status. Source of AMS remains unclear; did appear to
   be waking up in [**Hospital Unit Name 1**] prior to transfer, but agitated leading to start
   of propofol.  Thus far, infectious workup not revealing except for ?R
   sided infiltrate (though unable to get LP); tox screen negative; head
   imaging with noncontrast CT normal, awaiting MRI.  EEG pending.  Mild
   hyponatremia.  At [**Hospital1 19**], no ABG obtained prior to intubation so unclear
   if hypercarbia (OSA or obesity hypoventilation) played a role (chronic
   respiratory acidosis on OSH labs).
   - continue vanco/ceftriaxone/acyclovir empirically
   - plan for MRI on [**Hospital Ward Name **] today - eval for evidence of stroke (Afib
   not on anticoag), encephalitis, structural disease).
   - will need to further discuss likelihood of meningitis to assess
   risks/benefits of more advanced techniques of obtaining CSF for
   definitive evaluation of meningitis (via neurosurgery).  Has been on
   antibiotics now x almost 48H.
   - appreciate neuro following.
   - f/u EEG results
   - Correct lytes.
   - once study completed, wean sedation to better assess mental status;
   consider extubating this evening.
   - If extubated, CPAP or bipap overnight as with history of OSA.
   .
   # Respiratory failure.  s/p intubation in ED for unclear reasons, ?for
   airway protection.  Currently on AC, PEEP 15 FiO2 0.5.  Did have trial
   of PSV as low as [**4-16**] today.  With likely chronic respiratory acidosis
   on ABG.
   - Consider extubation following MRI this evening vs. keeping sedated
   overnight for further input re: possibility of retrial LP or other
   procedure to obtain CSF.
   - Propofol for now.
   .
   # Leukocytosis. Elevated WBC raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Unable to assess for h/o meningismus
   and therefore started on empiric treatment for this.
   - F/u sputum culture
   - Consider CSF sampling.
   - vanc/ceftriaxone/acyclovir to cover meningitis given unable to obtain
   any history
   .
   # A. fib. Patient in A.fib with RVR. On toprol at home.  Well
   controlled earlier today and yesterday on dilt gtt; ?did not get any
   oral/long acting in [**Hospital Unit Name 1**].
   - As BPs now in 90s systolic and HR in 110s+, will restart gtt for now
   and transition to oral (home metoprolol vs. dilt).
   - No coumadin [**1-10**] poor compliance.
   .
   # Relative hypotension.  Likely propofol effect, as is currently
   getting more here following transfer (in prep for MRI) than in [**Hospital Unit Name 1**].
   Also on PPV with high PEEP.  Appears hypervolemic currently.
   - Rate control as above.
   - Aline in place.
   - minimize sedation when possible.
   - CVP goal [**11-21**].
   .
   # Hypernatremia.  Improved after admit then back up this AM.
   - Recheck tonight; free water prn.
   .
   # Pneumonia - Organisms HCAP vs. aspiration vs. CAP.
   - Vanco/ceftriaxone as above; consider broader coverage of more
   resistant GNRs if not responding.  Consider readdition of anaerobic
   coverage as well if concern for aspiration persists.
   .
   # Elevated CK. Unclear how long patient was down for, but elevated CK
   can be attributed to this. Does not appear to be cardiac source.
   Trending down.
   .
   # CHF. Per history.  Difficult to assess volume status in this patient
   due to obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in
   mid to high teens.
   - monitor Is & Os; keep even for now.
   - records re: EF and cardiac disease.
   - consider TEE (was discussed in [**Hospital Unit Name 1**] given lack of ability to obtain
   adequate TTE images).
   .
   # Psoriasis.  Extensive.
   - Restart topicals when able.
   .
   # Diabetes.  ISS; long acting if needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-6**] 03:44 AM
   18 Gauge - [**2124-3-6**] 03:45 AM
   Arterial Line - [**2124-3-6**] 01:04 PM
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-09 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2124-3-8**] 04:18 PM
 ARTERIAL LINE - STOP [**2124-3-8**] 08:00 PM
   - A-line replaced
   - EEG results from [**3-7**]: abnormal in waking and sleeping states, with
   finding which can be seen with mild encephalopathy, medication effect,
   or extreme drowsiness. no focal abnormalities or epileptiform features.
   Cont meningitis treatment for now
   - transitioned to PO dilt
   - attempted vent wean to 15/10, didn't tolerate, tolerating 15/15
   currently
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-8**] 08:00 PM
   Acyclovir - [**2124-3-9**] 12:09 AM
   Ceftriaxone - [**2124-3-9**] 06:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-9**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 103 (81 - 110) bpm
   BP: 121/69(87) {92/55(78) - 143/85(320)} mmHg
   RR: 16 (5 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 21 (12 - 27)mmHg
   Total In:
                                                                  2,724 mL
                                                                    619 mL
   PO:
   TF:
   IVF:
                                                                  2,684 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                  1,166 mL
                                                                    380 mL
   Urine:
                                                                  1,166 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,558 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 693 (346 - 693) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 30 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/47/110/26/4
   Ve: 13 L/min
   PaO2 / FiO2: 275
   Physical Examination
   GEN: NAD distress
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenduated breath sounds however, clear to auscultation
   anteriorly
   CARD: Irregular, no S1, nl S2, no M/R/G
   ABD: BS scant, Soft, NT, TD
   EXT: psorais
   NEURO: does not follow commands, withdraws to noxious stimulti
   Labs / Radiology
   323 K/uL
   11.7 g/dL
   126 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   105 mEq/L
   140 mEq/L
   35.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2124-3-7**]  12:00 AM
                             [**2124-3-7**]  04:17 AM
                             [**2124-3-7**]  04:27 AM
                             [**2124-3-7**]  06:40 AM
                             [**2124-3-8**]  03:25 AM
                             [**2124-3-8**]  03:34 AM
                             [**2124-3-8**]  05:47 PM
                             [**2124-3-8**]  08:51 PM
                             [**2124-3-9**]  03:27 AM
                             [**2124-3-9**]  03:56 AM
   WBC
   12.9
   9.7
   7.8
   Hct
   37.2
   35.7
   35.5
   Plt
   [**Telephone/Fax (3) 6720**]
   Cr
   0.9
   0.9
   0.8
   TCO2
   31
   31
   31
   31
   27
   29
   31
   Glucose
   145
   128
   126
   Other labs: PT / PTT / INR:15.1/26.4/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:24/26, Alk Phos / T Bili:101/0.5,
   Differential-Neuts:77.1 %, Lymph:11.4 %, Mono:6.5 %, Eos:4.8 %, Lactic
   Acid:1.0 mmol/L, LDH:206 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, OSA, here
   with altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. no focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner.
   - Liberate from propofol as tolerated.
   - will check lipids, LFT
s due to propofol sedation
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   - Correct lytes.
   # Respiratory failure:
   Patient is s/p difficult intubation using fiberoptic intubation
   technique.
   - wean vent as tolerated, would consider extubation at PS [**9-16**].
   - Propofol for sedation
   - will start diuresis with lasix to improve resp status, goal CVP 10-20
   .
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Unable to assess for h/o meningismus
   and therefore started on empiric treatment for this.
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   .
   # A. fib:
   Patient in A.fib with RVR. On toprol at home. Patient did not present
   on anticoagulation. Well controlled heart rate while on dilt drip at
   lowest rate.
   - Cont  diltiazem 30 mg QID
   - No coumadin [**1-10**] poor compliance.
   # Elevated CK.
   Slight elevation to 229 at this time and continue to trend down.
   Unclear how long patient was down for, but elevated CK can be
   attributed to thcehol. Does not appear to be cardiac source.  Trending
   down.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - monitor Is & Os; keep even for now.
   - records re: EF and cardiac disease.
   - consider TEE (was discussed in [**Hospital Unit Name 1**] given lack of ability to obtain
   adequate TTE images).
   .
   # Psoriasis:
   Extensive.
   - Restart topicals when available
   - Dermatology consult
   # Diabetes
   Welll-controlled at this time on  HISS; long acting if needed.
   #FEN:  NPO currently, will consult nutrition for TF recs.
     Prophylaxis:  heparin sq, PPI, colace.
     Comm:  Unknown, will consult SW/CM
     Code:  Full
     Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-3-6**] 03:45 AM
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-10 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SW consult got records from [**Hospital **] Hospital in [**Location 408**].  HCP is
   brother [**Name (NI) **] [**Name (NI) **] of [**Location (un) **] as primary HCP ([**Telephone/Fax (1) 6742**]) and
   his other brother [**Name (NI) 6743**] [**Name (NI) **] of [**Name (NI) 89**] as his alternate HCP
   ([**Telephone/Fax (1) 6744**])
   - attempted CT head r/o ischemic event, too heavy for CT scanner
   - cont propofol sedation, LFT nml, trig 168
   - nutrition recs replete with fiber, beneprot 30gms, goal 30cc/hr, free
   water 200cc q4, though not started yet as trying to position feeding
   tube
   - tolerated PS [**11-18**] during day, put back on 15/15 overnight
   - lasix 20mg x2 doses, CVP goal [**9-26**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-9**] 08:18 PM
   Acyclovir - [**2124-3-10**] 12:01 AM
   Ceftriaxone - [**2124-3-10**] 06:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-3-9**] 08:00 AM
   Furosemide (Lasix) - [**2124-3-9**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-10**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-10**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 94 (90 - 113) bpm
   BP: 140/78(98) {103/46(65) - 148/91(109)} mmHg
   RR: 18 (6 - 36) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 23 (16 - 26)mmHg
   Total In:
                                                                  3,090 mL
                                                                  1,184 mL
   PO:
   TF:
                                                                    100 mL
                                                                    160 mL
   IVF:
                                                                  2,530 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                  6,950 mL
                                                                    630 mL
   Urine:
                                                                  6,950 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,860 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 400 (353 - 647) mL
   PS : 15 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 24 cmH2O
   SpO2: 98%
   ABG: 7.42/46/109/30/4
   Ve: 11.9 L/min
   PaO2 / FiO2: 273
   Physical Examination
   GEN: NAD distress
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenduated breath sounds however, clear to auscultation
   anteriorly
   CARD: Irregular, no S1, nl S2, no M/R/G
   ABD: BS scant, Soft, NT, TD
   EXT: psorais
   NEURO: does not follow commands, withdraws to noxious stimulti
   Labs / Radiology
   316 K/uL
   11.9 g/dL
   142 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   10 mg/dL
   101 mEq/L
   138 mEq/L
   36.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2124-3-8**]  03:34 AM
                             [**2124-3-8**]  05:47 PM
                             [**2124-3-8**]  08:51 PM
                             [**2124-3-9**]  03:27 AM
                             [**2124-3-9**]  03:56 AM
                             [**2124-3-9**]  04:32 PM
                             [**2124-3-9**]  08:27 PM
                             [**2124-3-9**]  09:11 PM
                             [**2124-3-10**]  03:17 AM
                             [**2124-3-10**]  04:17 AM
   WBC
   7.8
   8.2
   Hct
   35.5
   36.1
   Plt
   323
   316
   Cr
   0.8
   0.8
   0.7
   TCO2
   31
   27
   29
   31
   33
   30
   31
   Glucose
   126
   123
   142
   Other labs: PT / PTT / INR:14.7/25.9/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:16/15, Alk Phos / T Bili:100/0.4,
   Differential-Neuts:77.1 %, Lymph:11.4 %, Mono:6.5 %, Eos:4.8 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:163 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, OSA, here
   with altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. no focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner.
   - Liberate from propofol as tolerated.
   - will check lipids, LFT
s due to propofol sedation
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   - Correct lytes.
   # Respiratory failure:
   Patient is s/p difficult intubation using fiberoptic intubation
   technique.
   - wean vent as tolerated, would consider extubation at PS [**9-16**].
   - Propofol for sedation
   - will start diuresis with lasix to improve resp status, goal CVP 10-20
   .
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Unable to assess for h/o meningismus
   and therefore started on empiric treatment for this.
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   .
   # A. fib:
   Patient in A.fib with RVR. On toprol at home. Patient did not present
   on anticoagulation. Well controlled heart rate while on dilt drip at
   lowest rate.
   - Cont  diltiazem 30 mg QID
   - No coumadin [**1-10**] poor compliance.
   # Elevated CK.
   Slight elevation to 229 at this time and continue to trend down.
   Unclear how long patient was down for, but elevated CK can be
   attributed to thcehol. Does not appear to be cardiac source.  Trending
   down.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - monitor Is & Os; keep even for now.
   - records re: EF and cardiac disease.
   - consider TEE (was discussed in [**Hospital Unit Name 1**] given lack of ability to obtain
   adequate TTE images).
   .
   # Psoriasis:
   Extensive.
   - Restart topicals when available
   - Dermatology consult
   # Diabetes
   Welll-controlled at this time on  HISS; long acting if needed.
   ICU Care
   Nutrition: Tube feeding recs are complete and will initiate TF once
   feeding tube appropriately positioned.
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2124-3-6**] 03:45 AM
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  HCP is brother [**Name (NI) **] [**Name (NI) **] of [**Location (un) **] as primary
   HCP ([**Telephone/Fax (1) 6742**]) and his other brother [**Name (NI) 6743**] [**Name (NI) **] of [**Name (NI) 89**] as his
   alternate HCP ([**Telephone/Fax (1) 6744**])
   Code status: Full code
   Disposition: ICU for now

2124-03-11 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient started on topical agents for psoriasis per recent VA
   discharge summary.
   - Maintained on PSV 10/10 throughout day with ABG of 7.41/50/72, and
   increase back to 15/10 overnight.
   - Patient switched from propofol to dexmedetomidine during morning
   rounds and was found to have marked decrease in heart rate on drug.
   When sufficiently sedated on the drug had pauses on telemetry up to 2.6
   seconds.
   - Patient agitated and OG tube had to be discontinued due to patient
   tounging tube and coiling it in his mouth.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-10**] 08:00 PM
   Acyclovir - [**2124-3-11**] 12:30 AM
   Ceftriaxone - [**2124-3-11**] 05:56 AM
   Infusions:
   Dexmedetomidine (Precedex) - 0.2 mcg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-11**] 12:30 AM
   Furosemide (Lasix) - [**2124-3-11**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 76 (64 - 109) bpm
   BP: 127/70(88) {108/63(77) - 152/111(113)} mmHg
   RR: 26 (0 - 39) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 16 (16 - 29)mmHg
   Total In:
                                                                  4,078 mL
                                                                    503 mL
   PO:
   TF:
                                                                    649 mL
   IVF:
                                                                  2,284 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  4,655 mL
                                                                  1,350 mL
   Urine:
                                                                  4,655 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -577 mL
                                                                   -847 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 499 (357 - 656) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.42/54/81.[**Numeric Identifier 218**]/31/8
   Ve: 10 L/min
   PaO2 / FiO2: 203
   Physical Examination
   GEN: arousable this morning, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   310 K/uL
   12.4 g/dL
   157 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.8 mEq/L
   9 mg/dL
   101 mEq/L
   140 mEq/L
   37.4 %
   8.7 K/uL
        [image002.jpg]
                             [**2124-3-9**]  03:56 AM
                             [**2124-3-9**]  04:32 PM
                             [**2124-3-9**]  08:27 PM
                             [**2124-3-9**]  09:11 PM
                             [**2124-3-10**]  03:17 AM
                             [**2124-3-10**]  04:17 AM
                             [**2124-3-10**]  03:59 PM
                             [**2124-3-11**]  02:22 AM
                             [**2124-3-11**]  03:29 AM
                             [**2124-3-11**]  05:17 AM
   WBC
   8.2
   8.7
   Hct
   36.1
   37.4
   Plt
   316
   310
   Cr
   0.8
   0.7
   0.8
   TCO2
   31
   33
   30
   31
   33
   33
   36
   Glucose
   123
   142
   157
   Other labs: PT / PTT / INR:14.7/25.9/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:16/15, Alk Phos / T Bili:100/0.4,
   Differential-Neuts:77.1 %, Lymph:11.4 %, Mono:6.5 %, Eos:4.8 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:163 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight. Today appears much more alert.
   - Off propofol as tolerated and switced to dexmedetomidine now off all
   sedation except for boluses
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.
   - wean vent as tolerated, SBT, and would consider extubation later
   today or tomorrow if patient continues to improve.
   - Will use IV boluses for sedation as needed, off drips
   - will start diuresis with lasix to improve resp status, goal CVP 10-20
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Sputum culture only with growth of
   oropharyngeal flora. Unable to assess for h/o meningismus and therefore
   started on empiric treatment for this. WBC count is within normal
   limits today.
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   # A. fib:
   Patient in A.fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem, however has lost OG tube.
   - use IV metoprolol and/or diltiazem today until OG/NG is replaced or
   patient extubated.
   - if OG/NG replaced will go back to diltiazem 30 mg QID
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide IV PRN to attempt to get patient
   back to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - Restarted topical agents per most recent VA DC summary.
   # Diabetes
   Welll-controlled at this time on  HISS; long acting if needed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-12 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Went in to afib w/RVR. Used IV Metoprolol to control initially. OGT
   replaced and PO dilt restarted.
   - During day on [**7-17**], placed in PM on [**9-16**] and then was turned for
   cleaning and started to desat. Rested overnight on AC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-11**] 08:23 PM
   Acyclovir - [**2124-3-12**] 01:00 AM
   Ceftriaxone - [**2124-3-12**] 06:44 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Metoprolol - [**2124-3-11**] 05:30 PM
   Midazolam (Versed) - [**2124-3-11**] 05:54 PM
   Fentanyl - [**2124-3-11**] 05:55 PM
   Furosemide (Lasix) - [**2124-3-11**] 07:45 PM
   Famotidine (Pepcid) - [**2124-3-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-12**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-12**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 112 (82 - 125) bpm
   BP: 134/77(313) {116/71(95) - 177/165(313)} mmHg
   RR: 19 (15 - 38) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 18 (18 - 32)mmHg
   Total In:
                                                                  2,968 mL
                                                                    979 mL
   PO:
   TF:
                                                                    120 mL
                                                                    135 mL
   IVF:
                                                                  2,768 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  7,680 mL
                                                                    570 mL
   Urine:
                                                                  7,680 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,712 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 379 (379 - 501) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI: 103
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.43/53/120/32/9
   Ve: 12.2 L/min
   PaO2 / FiO2: 200
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   323 K/uL
   12.1 g/dL
   143 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   10 mg/dL
   99 mEq/L
   139 mEq/L
   38.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2124-3-10**]  03:17 AM
                             [**2124-3-10**]  04:17 AM
                             [**2124-3-10**]  03:59 PM
                             [**2124-3-11**]  02:22 AM
                             [**2124-3-11**]  03:29 AM
                             [**2124-3-11**]  05:17 AM
                             [**2124-3-11**]  02:43 PM
                             [**2124-3-12**]  03:16 AM
                             [**2124-3-12**]  03:39 AM
                             [**2124-3-12**]  06:42 AM
   WBC
   8.2
   8.7
   10.5
   Hct
   36.1
   37.4
   38.2
   Plt
   [**Telephone/Fax (3) 6777**]
   Cr
   0.7
   0.8
   0.8
   TCO2
   31
   33
   33
   36
   36
   36
   36
   Glucose
   142
   157
   143
   Other labs: PT / PTT / INR:15.1/27.5/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:16/15, Alk Phos / T Bili:100/0.4,
   Differential-Neuts:77.1 %, Lymph:11.4 %, Mono:6.5 %, Eos:4.8 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.0 g/dL, LDH:163 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight. Today appears much more alert.  Weaned off propofol
   sedation to dex, had sinus pauses on dex so sedation changed to
   fent/versed.
   - plan extubation today, sedation weaned
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   .
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.
   - extubation with anesthesia present.
   - Will use IV boluses for sedation as needed, off drips
   - cont diuresis with lasix to improve resp status, goal CVP 10-20
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Sputum culture only with growth of
   oropharyngeal flora. Unable to assess for h/o meningismus and therefore
   started on empiric treatment for this. WBC count is within normal
   limits today.
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   # A. fib:
   Patient in A.fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem, however has lost OG tube.
   - cont diltiazem 30mg qid
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide IV PRN to attempt to get patient
   back to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - Restarted topical agents per most recent VA DC summary.
   # Diabetes
   Welll-controlled at this time on HISS; long acting if needed.
   FEN:  NPO for extubation, will plan PO diet once stable post-extubation
   Prophylaxis:  Pneumoboots/heparin sq, Pepcid, colace/senna/lactulose
   Code status: Full
   Communication:  patient, brother is HCP
   Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-13 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-3-12**] 12:39 PM
 INVASIVE VENTILATION - START [**2124-3-13**] 01:30 AM
   - Extubated in AM without complications, post-abg 7.35/66/144, put on
   CPAP.
   - shaved for CPAP mask, good seal now.
   - in PM, patient more tachypnic, BiPAP started without increase in
   tachypnea.  Intubation with awake fiberoptic by anesthesia difficult
   but without complications.  Post-intubation CXR with ETT in good
   position.  Sedation with fent/versed.
   - fever to 101 overnight, Bcx, U/A, Ucx drawn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-12**] 08:30 PM
   Acyclovir - [**2124-3-13**] 12:44 AM
   Ceftriaxone - [**2124-3-13**] 06:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Hydralazine - [**2124-3-12**] 04:35 PM
   Midazolam (Versed) - [**2124-3-12**] 08:15 PM
   Metoprolol - [**2124-3-12**] 10:13 PM
   Lorazepam (Ativan) - [**2124-3-12**] 10:55 PM
   Diltiazem - [**2124-3-12**] 11:55 PM
   Morphine Sulfate - [**2124-3-13**] 12:05 AM
   Heparin Sodium (Prophylaxis) - [**2124-3-13**] 12:44 AM
   Propofol - [**2124-3-13**] 01:30 AM
   Furosemide (Lasix) - [**2124-3-13**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-13**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100.1
   HR: 84 (77 - 143) bpm
   BP: 132/68(87) {96/54(67) - 175/129(272)} mmHg
   RR: 20 (10 - 39) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 18 (12 - 26)mmHg
   Total In:
                                                                  3,119 mL
                                                                    835 mL
   PO:
   TF:
                                                                    135 mL
   IVF:
                                                                  2,214 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                  4,875 mL
                                                                  1,650 mL
   Urine:
                                                                  4,875 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,756 mL
                                                                   -815 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 599 (330 - 1,227) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI: 100
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 29 cmH2O
   SpO2: 97%
   ABG: 7.45/51/106/35/9
   Ve: 13.4 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   292 K/uL
   12.5 g/dL
   163 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.0 mEq/L
   8 mg/dL
   96 mEq/L
   137 mEq/L
   39.2 %
   18.9 K/uL
        [image002.jpg]
                             [**2124-3-12**]  03:16 AM
                             [**2124-3-12**]  03:39 AM
                             [**2124-3-12**]  06:42 AM
                             [**2124-3-12**]  01:42 PM
                             [**2124-3-12**]  05:30 PM
                             [**2124-3-12**]  11:31 PM
                             [**2124-3-13**]  12:40 AM
                             [**2124-3-13**]  02:33 AM
                             [**2124-3-13**]  03:37 AM
                             [**2124-3-13**]  04:37 AM
   WBC
   10.5
   18.9
   Hct
   38.2
   39.2
   Plt
   323
   292
   Cr
   0.8
   0.7
   TCO2
   36
   36
   38
   38
   36
   38
   39
   37
   Glucose
   143
   163
   Other labs: PT / PTT / INR:15.1/27.5/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:16/15, Alk Phos / T Bili:100/0.4,
   Differential-Neuts:77.1 %, Lymph:11.4 %, Mono:6.5 %, Eos:4.8 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:163 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   .
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective.  Etiology
   of AMS remains unclear at this point.  Infx vs. hypoxic/ischemic still
   not clear.  Remains on abx for meningitis
   - will pursue options for imaging to eval for possible cerebral
   ischemia.  Will attempt CT head.
   - consider MRI
   - cont fent/versed sedation while intubated
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   .
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.
   - cont intubation for now
   - trial CPAP, wean vent as tolerated
   - cont fent/versed gtt for sedation, minimize sedation as tolerated
   - cont diuresis with lasix to improve resp status, goal CVP 10-20
   - will start to discuss possibility of trach with HCP
   .
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Sputum culture only with growth of
   oropharyngeal flora. Unable to assess for h/o meningismus and therefore
   started on empiric treatment for this. WBC count is within normal
   limits today.  Rising WBC today 4/6 up to 19 from 10 previous day
   without clear source in setting of new fever to 101 overnight.
   - Bcx, U/A, Ucx, CXR
   - will do bronch with BAL today
   - will eval diff on CBC for possible medication reaction
   - c.diff
   - Amylase, lipase, LFT
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   .
   # A. fib:
   Patient in A.fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem, however has lost OG tube.
   - cont diltiazem 60mg qid
   - No coumadin [**1-10**] poor compliance.
   .
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide IV to attempt to get patient back
   to even fluid balance for length of stay
   - lasix 20mg TID standing
   .
   # Psoriasis:
   Extensive.
   - Restarted topical agents per most recent VA DC summary.
   # Diabetes
   Welll-controlled at this time on HISS; long acting if needed.
   FEN:  Will restart tube feeds now that intubated with OGT in place.
   Prophylaxis:  Pneumoboots/heparin sq, Pepcid, colace/senna/lactulose
   Code status: Full
   Communication:  patient, brother is HCP
   Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-14 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ET tube too small for planned bronchoscopy, so mini-BAL performed
   with resulting gram stain with no PMNs or organisms
   - CT head planned - rads says too big
   - Diuresis continued
   - A-line with unreliable tracing; however, cuff pressures roughly
   correlate
   - Patient with 9 PM ABG of 7.51/44/81 decreased RR on vent and repeat
   ABG was 7.45/51/100
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-13**] 08:40 PM
   Acyclovir - [**2124-3-14**] 12:14 AM
   Ceftriaxone - [**2124-3-14**] 05:27 AM
   Infusions:
   Fentanyl - 85 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-13**] 08:41 PM
   Fentanyl - [**2124-3-13**] 08:41 PM
   Furosemide (Lasix) - [**2124-3-13**] 09:31 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-14**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-14**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 103 (74 - 103) bpm
   BP: 137/71(88) {107/59(71) - 152/86(98)} mmHg
   RR: 11 (0 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 21 (13 - 33)mmHg
   Total In:
                                                                  3,181 mL
                                                                    935 mL
   PO:
                                                                     60 mL
                                                                    160 mL
   TF:
                                                                    103 mL
                                                                    230 mL
   IVF:
                                                                  2,737 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  1,480 mL
   Urine:
                                                                  3,700 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -519 mL
                                                                   -545 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 842 (842 - 842) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 23 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.45/51/99.[**Numeric Identifier 508**]/37/9
   Ve: 8.8 L/min
   PaO2 / FiO2: 167
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   270 K/uL
   11.9 g/dL
   148 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.6 mEq/L
   11 mg/dL
   95 mEq/L
   138 mEq/L
   35.7 %
   9.4 K/uL
        [image002.jpg]
                             [**2124-3-12**]  05:30 PM
                             [**2124-3-12**]  11:31 PM
                             [**2124-3-13**]  12:40 AM
                             [**2124-3-13**]  02:33 AM
                             [**2124-3-13**]  03:37 AM
                             [**2124-3-13**]  04:37 AM
                             [**2124-3-13**]  10:37 AM
                             [**2124-3-13**]  09:00 PM
                             [**2124-3-13**]  11:23 PM
                             [**2124-3-14**]  04:40 AM
   WBC
   18.9
   9.4
   Hct
   39.2
   35.7
   Plt
   292
   270
   Cr
   0.7
   0.7
   TCO2
   38
   36
   38
   39
   37
   42
   36
   37
   Glucose
   163
   148
   Other labs: PT / PTT / INR:16.1/29.2/1.4, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:78.9 %, Band:0.0 %,
   Lymph:11.5 %, Mono:7.1 %, Eos:2.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.3 g/dL, LDH:181 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   .
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective.  Etiology
   of AMS remains unclear at this point.  Infx vs. hypoxic/ischemic still
   not clear.  Remains on abx for meningitis
   - will pursue options for imaging to eval for possible cerebral
   ischemia, will pursue CT head
   - consider MRI
   - cont fent/versed sedation while intubated, consider bolus sedation
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   .
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**].
   - cont intubation for now, will decrease RR due to pts likely baseline
   high CO2.  Will trial at 20/10.
   - will start diamox if hypercarbia >40
   - trial CPAP, wean vent as tolerated
   - cont fent/versed gtt for sedation, minimize sedation as tolerated
   - will start lasix gtt, goal CVP 10-20
   - will start to discuss possibility of trach with HCP if fails
   extubation for second time.
   .
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Sputum culture only with growth of
   oropharyngeal flora. Unable to assess for h/o meningismus and therefore
   started on empiric treatment for this. WBC count is within normal
   limits today.  Rising WBC today 4/6 up to 19 from 10 previous day
   without clear source in setting of new fever to 101 overnight.
   - Bcx, U/A, Ucx, CXR
   - f/u mini-BAL from [**3-13**]
   - will eval diff on CBC for possible medication reaction
   - c.diff
   - Amylase, lipase, LFT
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   .
   # A. fib:
   Patient in A.fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem, however has lost OG tube.
   - cont diltiazem 60mg qid
   - No coumadin [**1-10**] poor compliance.
   .
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide IV to attempt to get patient back
   to even fluid balance for length of stay
   - lasix 20mg TID standing
   .
   # Psoriasis:
   Extensive.
   - Restarted topical agents per most recent VA DC summary.
   # Diabetes
   Welll-controlled at this time on HISS; long acting if needed.
   FEN:  Tube feeds
   Prophylaxis:  Pneumoboots/heparin sq, Pepcid, colace/senna/lactulose
   Code status: Full
   Communication:  patient, brother is HCP
   Dispo:  ICU for now
   ICU Care
   Nutrition:
   Replete (Full) - [**2124-3-14**] 06:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-15 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Head CT, prelim negative
   - advanced ET tube
   - started lasix drip
   - planned to start diamox if bicarb goes above 40
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Acyclovir - [**2124-3-14**] 04:00 PM
   Ceftriaxone - [**2124-3-14**] 06:00 PM
   Vancomycin - [**2124-3-14**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 55 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-14**] 11:10 AM
   Fentanyl - [**2124-3-14**] 11:10 AM
   Heparin Sodium (Prophylaxis) - [**2124-3-15**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 102 (76 - 114) bpm
   BP: 134/89(107) {105/73(93) - 159/152(355)} mmHg
   RR: 14 (4 - 20) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 19 (16 - 19)mmHg
   Total In:
                                                                  4,066 mL
                                                                    820 mL
   PO:
                                                                    270 mL
   TF:
                                                                  1,314 mL
                                                                    586 mL
   IVF:
                                                                  2,402 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  3,680 mL
                                                                  1,700 mL
   Urine:
                                                                  3,680 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 600) mL
   PS : 18 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/53/80.[**Numeric Identifier 176**]/37/8
   Ve: 5.5 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   281 K/uL
   11.9 g/dL
   154 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.9 mEq/L
   12 mg/dL
   94 mEq/L
   137 mEq/L
   36.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2124-3-13**]  12:40 AM
                             [**2124-3-13**]  02:33 AM
                             [**2124-3-13**]  03:37 AM
                             [**2124-3-13**]  04:37 AM
                             [**2124-3-13**]  10:37 AM
                             [**2124-3-13**]  09:00 PM
                             [**2124-3-13**]  11:23 PM
                             [**2124-3-14**]  04:40 AM
                             [**2124-3-15**]  02:26 AM
                             [**2124-3-15**]  02:47 AM
   WBC
   18.9
   9.4
   11.2
   Hct
   39.2
   35.7
   36.2
   Plt
   292
   270
   281
   Cr
   0.7
   0.7
   0.6
   TCO2
   38
   39
   37
   42
   36
   37
   36
   Glucose
   163
   148
   154
   Other labs: PT / PTT / INR:15.8/31.1/1.4, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.9
   %, Mono:7.2 %, Eos:1.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   .
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective.  Etiology
   of AMS remains unclear at this point.  Infx vs. hypoxic/ischemic still
   not clear.  Remains on abx for meningitis
   - Preliminary head CT from [**3-15**] negative, will f/u final read
   - consider MRI
   - bolus sedation with fent/versed
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses
   - Neurology following
   .
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**].
   - cont intubation for now, will decrease RR due to pts likely baseline
   high CO2.  Will trial at 20/10.
   - will start diamox if hypercarbia >40
   - trial CPAP, wean vent as tolerated
   - cont fent/versed for sedation
   - cont lasix gtt, goal CVP 10-20
   - will start to discuss possibility of trach with HCP if fails
   extubation for second time.
   .
   # Leukocytosis:
   Elevated WBC at presentation raises the possibility of infection as
   cause of AMS. Urine negative. ? RUL infiltrate on CXR, however poor
   study and difficult to interpret. Sputum culture only with growth of
   oropharyngeal flora. Unable to assess for h/o meningismus and therefore
   started on empiric treatment for this. WBC count is within normal
   limits today.  Rising WBC today 4/6 up to 19 from 10 previous day
   without clear source in setting of new fever to 101 overnight.
   - Bcx, U/A, Ucx, CXR
   - f/u mini-BAL from [**3-13**]
   - will eval diff on CBC for possible medication reaction
   - c.diff
   - Amylase, lipase, LFT
   - F/u sputum culture
   - will cont empiric treatment for 2 week course.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis.
   .
   # A. fib:
   Patient in A.fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem, however has lost OG tube.
   - cont diltiazem 60mg qid
   - No coumadin [**1-10**] poor compliance.
   .
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF.  CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide IV to attempt to get patient back
   to even fluid balance for length of stay
   - Cont lasix gtt
   .
   # Psoriasis:
   Extensive.
   - Restarted topical agents per most recent VA DC summary.
   # Diabetes
   Welll-controlled at this time on HISS; long acting if needed.
   FEN:  Tube feeds
   Prophylaxis:  Pneumoboots/heparin sq, Pepcid, colace/senna/lactulose
   Code status: Full
   Communication:  patient, brother is HCP
   Dispo:  ICU for now
   ICU Care
   Nutrition:
   Replete (Full) - [**2124-3-14**] 12:17 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Arterial Line - [**2124-3-8**] 04:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-16 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Liberated from vent to PS [**9-16**]
   - Removed A-line
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bradycardia
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-15**] 08:00 PM
   Acyclovir - [**2124-3-16**] 12:26 AM
   Ceftriaxone - [**2124-3-16**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-3-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-16**] 12:26 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-16**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 93 (82 - 113) bpm
   BP: 141/68(83) {120/67(79) - 158/96(107)} mmHg
   RR: 26 (6 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 20 (15 - 27)mmHg
   Total In:
                                                                  3,901 mL
                                                                  1,662 mL
   PO:
   TF:
                                                                  1,924 mL
                                                                    481 mL
   IVF:
                                                                  1,573 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                  6,630 mL
                                                                  2,980 mL
   Urine:
                                                                  6,620 mL
                                                                  2,980 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,729 mL
                                                                 -1,318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (381 - 649) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 94%
   VBG: 7.38/64
   Ve: 10.1 L/min
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   259 K/uL
   12.8 g/dL
   176 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.8 mEq/L
   12 mg/dL
   92 mEq/L
   137 mEq/L
   37.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2124-3-13**]  02:33 AM
                             [**2124-3-13**]  03:37 AM
                             [**2124-3-13**]  04:37 AM
                             [**2124-3-13**]  10:37 AM
                             [**2124-3-13**]  09:00 PM
                             [**2124-3-13**]  11:23 PM
                             [**2124-3-14**]  04:40 AM
                             [**2124-3-15**]  02:26 AM
                             [**2124-3-15**]  02:47 AM
                             [**2124-3-16**]  02:09 AM
   WBC
   18.9
   9.4
   11.2
   12.6
   Hct
   39.2
   35.7
   36.2
   37.1
   Plt
   292
   270
   281
   259
   Cr
   0.7
   0.7
   0.6
   0.7
   TCO2
   39
   37
   42
   36
   37
   36
   Glucose
   163
   148
   154
   176
   Other labs: PT / PTT / INR:14.6/29.8/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.6 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.7 %, Eos:1.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.
   - Cont sedation with fent/versed
   - Continue vanco / ceftriaxone / acyclovir empirically at meningitis
   doses with last dose of all antibiotics to be given on [**2124-3-20**]
   - Neurology following
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.
   - Cont intubation for now, trial of lower PSV this evening.
   - Will start diamox if hypercarbia >40
   - Cont fent/versed for sedation
   - Cont lasix gtt, currently at 6 mg/hr,  goal CVP 10-20
   - Will start to discuss possibility of trach with HCP if fails
   extubation for second time
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.
   - Follow-up pending blood cultures.
   - Vanc / ceftriaxone / acyclovir to cover meningitis given that we were
   unable to obtain any signs or symptoms of meningitis. Will cont empiric
   treatment for 2 week course ending on [**2124-3-20**]
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - Cont diltiazem 60mg four times per day
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide gtt to attempt to get patient back
   to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   ICU Care
   Nutrition: Replete with fiber Full strength; Additives: Beneprotein, 30
   gm/day, Goal rate: 80 ml/hr
   Glycemic Control:  Humalog insulin per sliding scale
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: Famotidine
   VAP:  Oral care, HOB elevation
   Communication:  patient, brother is HCP
   [**Name (NI) 36**] status: FULL
   Disposition: ICU for now

2124-03-17 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family came to see patient, plan to discuss care with Brother [**Name (NI) **]
   today
   - Did not tolerate PS 5/5 very well (hypercapnea to 82 on VBG) and was
   moved back to PS at 10/10
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-16**] 08:17 PM
   Acyclovir - [**2124-3-17**] 01:00 AM
   Ceftriaxone - [**2124-3-17**] 06:31 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2124-3-16**] 08:18 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-17**] 01:00 AM
   Fentanyl - [**2124-3-17**] 04:10 AM
   Midazolam (Versed) - [**2124-3-17**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 83 (69 - 128) bpm
   BP: 133/74(85) {110/58(73) - 168/105(115)} mmHg
   RR: 23 (18 - 38) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 21 (15 - 33)mmHg
   Total In:
                                                                  3,930 mL
                                                                    700 mL
   PO:
   TF:
                                                                    881 mL
   IVF:
                                                                  2,178 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  6,875 mL
                                                                  1,050 mL
   Urine:
                                                                  6,870 mL
                                                                  1,050 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,945 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (341 - 548) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 93%
   ABG: ///38/
   Ve: 8.2 L/min
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   261 K/uL
   12.1 g/dL
   146 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.0 mEq/L
   12 mg/dL
   88 mEq/L
   133 mEq/L
   37.6 %
   12.5 K/uL
        [image002.jpg]
                             [**2124-3-13**]  04:37 AM
                             [**2124-3-13**]  10:37 AM
                             [**2124-3-13**]  09:00 PM
                             [**2124-3-13**]  11:23 PM
                             [**2124-3-14**]  04:40 AM
                             [**2124-3-15**]  02:26 AM
                             [**2124-3-15**]  02:47 AM
                             [**2124-3-16**]  02:09 AM
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
   WBC
   9.4
   11.2
   12.6
   12.5
   Hct
   35.7
   36.2
   37.1
   37.6
   Plt
   [**Telephone/Fax (3) 6875**]61
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   TCO2
   37
   42
   36
   37
   36
   Glucose
   148
   154
   176
   146
   146
   Other labs: PT / PTT / INR:15.2/31.8/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.
   - Cont sedation with fent/versed
   - treat with vanco / zosyn / acyclovir empirically, the switch from
   ceftriaxone to zosyn due to concern for vent assoc PNA (see below)
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.
   - Cont intubation for now.
   - check VBG, send sputum
   - as CXR is worse today, and sputum appears yellow/tan, would treat
   with vanc/zosyn for possible vent assoc PNA
   - Will start diamox if hypercarbia >40
   - Cont fent/versed for sedation
   - Cont lasix gtt, currently at 6 mg/hr,  goal CVP 10-20
   - Will start to discuss possibility of trach with HCP if fails
   extubation for second time
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.
   - Follow-up pending blood cultures.
   - Vanc / zosyn / acyclovir as above
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - Cont diltiazem 60mg four times per day
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide gtt to attempt to get patient back
   to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   DISPO: brother [**Name (NI) **] listed as HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Replete with fiber Full strength; Additives: Beneprotein, 30 gm/day
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-18 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - New concern for VAP on chest x-ray and given tan colored sputum
   - Abx switched to vanc/zosyn/acyclovir
   - VBG showed 7.37/78/40 and given possible VAP, was not extubated
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-3-17**] 06:31 AM
   Vancomycin - [**2124-3-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-18**] 12:20 AM
   Acyclovir - [**2124-3-18**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2124-3-17**] 03:15 PM
   Midazolam (Versed) - [**2124-3-17**] 03:15 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-18**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 85 (66 - 96) bpm
   BP: 142/71(88) {106/52(57) - 154/87(98)} mmHg
   RR: 8 (8 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 23 (16 - 26)mmHg
   Total In:
                                                                  3,480 mL
                                                                  1,223 mL
   PO:
   TF:
                                                                    823 mL
                                                                    615 mL
   IVF:
                                                                  2,317 mL
                                                                    608 mL
   Blood products:
   Total out:
                                                                  4,780 mL
                                                                  1,900 mL
   Urine:
                                                                  4,780 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                   -677 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 619 (382 - 641) mL
   PS : 15 cmH2O
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   SpO2: 96%
   ABG: ///39/
   Ve: 8.3 L/min
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   296 K/uL
   11.5 g/dL
   177 mg/dL
   0.7 mg/dL
   39 mEq/L
   4.0 mEq/L
   14 mg/dL
   90 mEq/L
   136 mEq/L
   36.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2124-3-13**]  09:00 PM
                             [**2124-3-13**]  11:23 PM
                             [**2124-3-14**]  04:40 AM
                             [**2124-3-15**]  02:26 AM
                             [**2124-3-15**]  02:47 AM
                             [**2124-3-16**]  02:09 AM
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
   WBC
   9.4
   11.2
   12.6
   12.5
   11.4
   Hct
   35.7
   36.2
   37.1
   37.6
   36.7
   Plt
   [**Telephone/Fax (3) 6875**]61
   296
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   36
   37
   36
   Glucose
   148
   154
   176
   146
   146
   157
   177
   Other labs: PT / PTT / INR:15.2/31.8/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.  Now with
   ?infiltrate on CXR c/f VAP, continued on abx.
   - Cont sedation with fent/versed
   - treat with vanco / zosyn / acyclovir empirically, the switch from
   ceftriaxone to zosyn due to concern for vent assoc PNA (see below).
   - will plan to treat for 7d course with vanco/zosyn for VAP, follow
   sputum cultures
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.  New
   c/f VAP given tan colored sputum.
   - Cont intubation for now.
   - will plan to pursue trach soon as pt without clear signs of
   improvement for successful
   - follow VBG daily, f/u cultures
   - Cont tx with vanc/zosyn for possible vent assoc PNA
   - start diamox today for CO2 39
   - Cont fent/versed for sedation
   - Cont lasix gtt, goal CVP 10-20
   - will start to pursue trach options
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.
   - Follow-up pending blood cultures.
   - Vanc / zosyn / acyclovir as above
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - Cont diltiazem 60mg four times per day
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide gtt to attempt to get patient back
   to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   DISPO: brother [**Name (NI) **] listed as HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Replete with Fiber (Full) - [**2124-3-17**] 11:43 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-18 08:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-3-17**] 06:31 AM
   Vancomycin - [**2124-3-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-18**] 12:20 AM
   Acyclovir - [**2124-3-18**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2124-3-17**] 03:15 PM
   Midazolam (Versed) - [**2124-3-17**] 03:15 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-18**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 79 (66 - 96) bpm
   BP: 122/79(89) {106/52(57) - 154/87(98)} mmHg
   RR: 17 (8 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 23 (18 - 26)mmHg
   Total In:
                                                                  3,480 mL
                                                                  1,309 mL
   PO:
   TF:
                                                                    823 mL
                                                                    676 mL
   IVF:
                                                                  2,317 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  4,780 mL
                                                                  1,900 mL
   Urine:
                                                                  4,780 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,300 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 584 (382 - 641) mL
   PS : 15 cmH2O
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 96%
   ABG: ///39/
   Ve: 7.7 L/min
   Physical Examination
   Obese, arousable, not following commands, intubated
   Decreased bs
   Irreg rhythm
   Abd benign
   Extreme edematous
   Skin diffuse psoriatic changes
   Labs / Radiology
   11.5 g/dL
   296 K/uL
   177 mg/dL
   0.7 mg/dL
   39 mEq/L
   4.0 mEq/L
   14 mg/dL
   90 mEq/L
   136 mEq/L
   36.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2124-3-13**]  09:00 PM
                             [**2124-3-13**]  11:23 PM
                             [**2124-3-14**]  04:40 AM
                             [**2124-3-15**]  02:26 AM
                             [**2124-3-15**]  02:47 AM
                             [**2124-3-16**]  02:09 AM
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
   WBC
   9.4
   11.2
   12.6
   12.5
   11.4
   Hct
   35.7
   36.2
   37.1
   37.6
   36.7
   Plt
   [**Telephone/Fax (3) 6875**]61
   296
   Cr
   0.7
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   36
   37
   36
   Glucose
   148
   154
   176
   146
   146
   157
   177
   Other labs: PT / PTT / INR:15.2/31.8/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS - being treated presumptively for meningitis,
   continue antibiotics
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 started on zosyn for VAP
 complete 7 day course, trach this upcoming week
   a-fib
 continue dilt, not anti-coagulated
   biventricular CHF
 continue to diurese
   psoriasis
 cont creams
   DM
 continue insulin
   ICU Care
   Nutrition: TFs
   Replete with Fiber (Full) - [**2124-3-17**] 11:43 PM 80 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:  hep sc, boots
   Stress ulcer:   ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent: 39

2124-03-19 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-3-18**] 03:07 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2124-3-19**] 04:50 AM
 INVASIVE VENTILATION - STOP [**2124-3-19**] 04:57 AM
 NON-INVASIVE VENTILATION - START [**2124-3-19**] 04:57 AM
   [**3-18**] Events:
   - no progress on vent wean, will start to pursue trach option
   - started diamox 250mg q6
   - plan follow daily vbg
   - cont lasix gtt
   - ETT high, advanced
   - [**3-17**] sputum cx contam., resent today
   .
   [**3-19**] Events:
   - self extubated at 0430.  ABG post-extubation before BiPAP
   7.4/64/85/41/11
   - place on BiPAP at request of anesthesia, well post-extubation
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-3-17**] 06:31 AM
   Vancomycin - [**2124-3-18**] 08:00 PM
   Acyclovir - [**2124-3-19**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-19**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-18**] 08:00 AM
   Fentanyl - [**2124-3-18**] 02:15 PM
   Midazolam (Versed) - [**2124-3-18**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 124 (67 - 125) bpm
   BP: 140/72(88) {111/59(75) - 154/92(106)} mmHg
   RR: 25 (6 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 22 (15 - 25)mmHg
   Total In:
                                                                  5,383 mL
                                                                  1,146 mL
   PO:
   TF:
                                                                  1,964 mL
                                                                    340 mL
   IVF:
                                                                  2,439 mL
                                                                    606 mL
   Blood products:
   Total out:
                                                                  6,655 mL
                                                                  4,030 mL
   Urine:
                                                                  6,655 mL
                                                                  4,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                 -2,884 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 881 (584 - 1,231) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.40/54/125/35/7
   Ve: 12.2 L/min
   PaO2 / FiO2: 208
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   364 K/uL
   12.5 g/dL
   179 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.0 mEq/L
   16 mg/dL
   94 mEq/L
   139 mEq/L
   38.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2124-3-15**]  02:47 AM
                             [**2124-3-16**]  02:09 AM
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
   WBC
   12.6
   12.5
   11.4
   13.7
   Hct
   37.1
   37.6
   36.7
   38.4
   Plt
   259
   261
   296
   364
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.8
   TCO2
   36
   41
   35
   Glucose
   176
   146
   146
   157
   177
   151
   179
   Other labs: PT / PTT / INR:15.2/31.8/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.  Now with
   ?infiltrate on CXR c/f VAP, continued on abx.  Improved mental status
   off sedation.  Self extubated on [**3-19**] AM with stable resp function
   post-extubation.  Able to follow complex commands post-extubation,
   talking and responsive.
   - treat with vanco / zosyn / acyclovir empirically, the switch from
   ceftriaxone to zosyn due to concern for vent assoc PNA (see below).
   - will plan to treat for 7d course with vanco/zosyn for VAP, follow
   sputum cultures
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.  New
   c/f VAP given tan colored sputum.  Self extubated on [**3-19**] AM, stable
   resp status post-extubation, placed on BiPAP prophylactically, ABG
   stable.
   - patient stable post self-extubation, will follow q2hr VBG
   - close monitoring of respiratory status.
   - follow VBG daily, f/u cultures
   - Cont tx with vanc/zosyn for possible vent assoc PNA
   - d/c diamox now that patient is extubated
   - Cont lasix gtt, goal CVP 10-20
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.
   - Follow-up pending blood cultures.
   - Vanc / zosyn / acyclovir as above
   - will plan to d/c acyclovir tomorrow, cont vanc/zosyn for full 7d VAP
   course
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - will start Diltiazem gtt today now that NGT pulled during self
   extubation.
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide gtt to attempt to get patient back
   to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   DISPO: brother [**Name (NI) **] listed as HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-19 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-3-18**] 03:07 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2124-3-19**] 04:50 AM
 INVASIVE VENTILATION - STOP [**2124-3-19**] 04:57 AM
 NON-INVASIVE VENTILATION - START [**2124-3-19**] 04:57 AM
   Started on lasix gtt and diamox yesterday
   7.40/64 before bipap started
   7.40/54 on bipap
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-3-17**] 06:31 AM
   Vancomycin - [**2124-3-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-19**] 06:00 AM
   Acyclovir - [**2124-3-19**] 07:48 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Fentanyl - [**2124-3-18**] 02:15 PM
   Metoprolol - [**2124-3-19**] 07:35 AM
   Heparin Sodium (Prophylaxis) - [**2124-3-19**] 07:48 AM
   Midazolam (Versed) - [**2124-3-19**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-19**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 102 (67 - 125) bpm
   BP: 122/70(81) {111/59(75) - 154/92(106)} mmHg
   RR: 18 (6 - 25) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 17 (15 - 25)mmHg
   Total In:
                                                                  5,383 mL
                                                                  1,403 mL
   PO:
   TF:
                                                                  1,964 mL
                                                                    340 mL
   IVF:
                                                                  2,439 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                  6,655 mL
                                                                  4,300 mL
   Urine:
                                                                  6,655 mL
                                                                  4,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,272 mL
                                                                 -2,897 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 881 (690 - 1,231) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.40/54/125/35/7
   Ve: 12.2 L/min
   PaO2 / FiO2: 208
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.5 g/dL
   364 K/uL
   179 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.0 mEq/L
   16 mg/dL
   94 mEq/L
   139 mEq/L
   38.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2124-3-15**]  02:47 AM
                             [**2124-3-16**]  02:09 AM
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
   WBC
   12.6
   12.5
   11.4
   13.7
   Hct
   37.1
   37.6
   36.7
   38.4
   Plt
   259
   261
   296
   364
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.7
   0.8
   TCO2
   36
   41
   35
   Glucose
   176
   146
   146
   157
   177
   151
   179
   Other labs: PT / PTT / INR:15.2/31.8/1.3, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   No CXR this AM
   Assessment and Plan
 ALTERED MENTAL STATUS - being treated presumptively for meningitis,
   continue antibiotics for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 started on zosyn for VAP
 complete 7 day course, self extubated this AM, seems stable on BIPAP,
   follow VBGs closely
   a-fib
 start dilt gtt, not anti-coagulated
   biventricular CHF
 continue to diurese, stop diamox
   psoriasis
 cont creams
   DM
 continue insulin
   ICU Care
   Nutrition: NPO while on bipap
   Glycemic Control:   SSI
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:   boots, sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   icu
   Total time spent:     36

2124-03-20 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - self extubated at 0430.  ABG post-extubation before BiPAP
   7.4/64/85/41/11
   - Placed on BiPAP at request of anesthesia, well post-extubation
   - Intermittently on BiPAP throughout day, initially with reassuring Q2H
   VBGs, were spaced out and VBG at 0400 was good at 7.34/60
   - Diuresis was ongoing at brisk rate and thus insulin drip was
   discontinued overnight, despite this, patient diuresed on his own,
   putting out
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-19**] 08:00 PM
   Acyclovir - [**2124-3-20**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-20**] 06:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-19**] 04:02 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-20**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-20**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 81 (78 - 116) bpm
   BP: 142/74(89) {117/52(70) - 159/107(114)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 32 (9 - 70)mmHg
   Total In:
                                                                  2,880 mL
                                                                    642 mL
   PO:
   TF:
                                                                    340 mL
   IVF:
                                                                  2,340 mL
                                                                    642 mL
   Blood products:
   Total out:
                                                                  8,940 mL
                                                                  1,870 mL
   Urine:
                                                                  8,940 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,060 mL
                                                                 -1,228 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 706 (112 - 1,355) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 10.8 L/min
   Physical Examination
   GEN: awake and following commands, intubated
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, BS scant, soft, NT, TD
   EXT: psoriasis
   NEURO: does seem to follow commands, able to communicate via gestures
   Labs / Radiology
   414 K/uL
   12.7 g/dL
   160 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.2 mEq/L
   12 mg/dL
   98 mEq/L
   138 mEq/L
   39.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
                             [**2124-3-19**]  03:18 PM
                             [**2124-3-20**]  03:39 AM
   WBC
   12.5
   11.4
   13.7
   14.0
   Hct
   37.6
   36.7
   38.4
   39.9
   Plt
   261
   296
   364
   414
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.8
   0.8
   0.7
   TCO2
   41
   35
   Glucose
   146
   146
   157
   177
   151
   179
   224
   160
   Other labs: PT / PTT / INR:16.0/31.3/1.4, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.  Now with
   ?infiltrate on CXR c/f VAP, continued on abx.  Improved mental status
   off sedation.  Self extubated on [**3-19**] AM with stable resp function
   post-extubation.  Able to follow complex commands post-extubation,
   talking and responsive.
   - treat with vanco / zosyn / acyclovir empirically, the switch from
   ceftriaxone to zosyn due to concern for vent assoc PNA (see below).
   - will plan to treat for 7d course with vanco/zosyn for VAP, follow
   sputum cultures
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.  New
   c/f VAP given tan colored sputum.  Self extubated on [**3-19**] AM, stable
   resp status post-extubation, placed on BiPAP prophylactically, ABG
   stable.
   - patient stable post self-extubation, will follow q2hr VBG
   - close monitoring of respiratory status.
   - follow VBG daily, f/u cultures
   - Cont tx with vanc/zosyn for possible vent assoc PNA
   - d/c diamox now that patient is extubated
   - Cont lasix gtt, goal CVP 10-20
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.
   - Follow-up pending blood cultures.
   - Vanc / zosyn / acyclovir as above
   - will plan to d/c acyclovir tomorrow, cont vanc/zosyn for full 7d VAP
   course
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - will start Diltiazem gtt today now that NGT pulled during self
   extubation.
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - Continue diuresis with furosemide gtt to attempt to get patient back
   to even fluid balance for length of stay
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   DISPO: brother [**Name (NI) **] listed as HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-20 10:43:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo with obesity, OSA, AF, psoriasis, found down and intubated in the
   ED for airway protection.  Has been treated empirically for
   meningitis.  Self extubated yesterday morning, and has done well.  Was
   on bipap, and now off of bipap.  Has been diuresed aggressively.
   24 Hour Events:
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-20**] 06:00 AM
   Acyclovir - [**2124-3-20**] 08:00 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-19**] 04:02 PM
   Heparin Sodium (Prophylaxis) - [**2124-3-20**] 08:00 AM
   Other medications:
   SSI
   atrovent
   pepcid
   asa
   colace
   s/q heparin
   psoriasis
   dilt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-20**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 83 (78 - 116) bpm
   BP: 150/82(97) {117/52(70) - 161/107(114)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 30 (9 - 70)mmHg
   Total In:
                                                                  2,880 mL
                                                                    959 mL
   PO:
   TF:
                                                                    340 mL
   IVF:
                                                                  2,340 mL
                                                                    959 mL
   Blood products:
   Total out:
                                                                  8,940 mL
                                                                  2,330 mL
   Urine:
                                                                  8,940 mL
                                                                  2,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -6,060 mL
                                                                 -1,371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 706 (112 - 1,355) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: ///31/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash: psoriatic rash in arms, torso
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.7 g/dL
   414 K/uL
   160 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.2 mEq/L
   12 mg/dL
   98 mEq/L
   138 mEq/L
   39.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2124-3-16**]  03:20 PM
                             [**2124-3-17**]  03:20 AM
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
                             [**2124-3-19**]  03:18 PM
                             [**2124-3-20**]  03:39 AM
   WBC
   12.5
   11.4
   13.7
   14.0
   Hct
   37.6
   36.7
   38.4
   39.9
   Plt
   261
   296
   364
   414
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.8
   0.8
   0.7
   TCO2
   41
   35
   Glucose
   146
   146
   157
   177
   151
   179
   224
   160
   Other labs: PT / PTT / INR:16.0/31.3/1.4, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:83.8 %, Band:0.0 %, Lymph:7.5
   %, Mono:6.8 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Much improved but still
   having mild respiratory distress.  Will need more diuresis, suctioning,
   bipap at night.
   VAP:  Complete course for VAP additional 5 days of Vanco/Zosyn.
   Acute on chronic diastolic CHF:  continue diuresis 1-2L negative per
   day.
   Leukocytosis:  has been high, treated for VAP.  Down from high WBC.
   Afib:  On diltiazem - can try back on PO.
   psoriasis:  on topical agents
   to start clear diet today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Comments: will try and change central line to PIC line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-03-21 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2124-3-20**] 03:45 PM
 PICC LINE - STOP [**2124-3-20**] 09:30 PM
   - Became slightly delirious. Thought he was outside. Pulled out PICC.
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Acyclovir - [**2124-3-20**] 08:00 AM
   Vancomycin - [**2124-3-20**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-21**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-21**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 91 (73 - 97) bpm
   BP: 138/66(83) {118/59(76) - 168/129(175)} mmHg
   RR: 33 (20 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 23 (23 - 38)mmHg
   Total In:
                                                                  1,900 mL
                                                                    168 mL
   PO:
                                                                     90 mL
   TF:
   IVF:
                                                                  1,810 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  1,430 mL
   Urine:
                                                                  4,480 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,580 mL
                                                                 -1,262 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: awake, conversant.  MAE
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, soft, NT, TD
   EXT: psoriasis
   NEURO: follows commands.  MAE.  AAOx3
   Labs / Radiology
   413 K/uL
   13.1 g/dL
   146 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   41.1 %
   16.9 K/uL
        [image002.jpg]
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
                             [**2124-3-19**]  03:18 PM
                             [**2124-3-20**]  03:39 AM
                             [**2124-3-20**]  02:41 PM
                             [**2124-3-21**]  03:45 AM
   WBC
   11.4
   13.7
   14.0
   16.9
   Hct
   36.7
   38.4
   39.9
   41.1
   Plt
   296
   364
   414
   413
   Cr
   0.6
   0.7
   0.7
   0.8
   0.8
   0.7
   0.8
   0.7
   TCO2
   41
   35
   Glucose
   157
   177
   151
   179
   [**Telephone/Fax (2) 6950**]46
   Other labs: PT / PTT / INR:16.7/29.6/1.5, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:85.1 %, Band:0.0 %, Lymph:7.8
   %, Mono:4.7 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.  Now with
   ?infiltrate on CXR c/f VAP, continued on abx.  Improved mental status
   off sedation.  Self extubated on [**3-19**] AM with stable resp function
   post-extubation.  Able to follow complex commands post-extubation,
   talking and responsive.  Today [**3-21**] with new delirium with increased
   WBC, diarrhea
   - c.diff
   - empiric flagyl
   - s/p 14d course acyclovir (end date [**3-20**])
   - will plan to treat for 7d course with vanco/zosyn (D1 [**3-20**]) for VAP,
   follow sputum cultures
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.  New
   c/f VAP given tan colored sputum.  Self extubated on [**3-19**] AM, stable
   resp status post-extubation, placed on BiPAP prophylactically, ABG
   stable.
   - close monitoring of respiratory status.
   - BiPAP as needed
   - follow VBG daily, f/u cultures
   - Cont tx with vanc/zosyn (D1 [**3-20**]) for possible vent assoc PNA, 7d
   course
   - lasix gtt d/c
d yesterday, will watch I/O for continued goal net
   negative.
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.  Elevated WBC today to 17 today from 14 yesterday, unclear cause
   but has new diarrhea.
   - Follow-up pending blood cultures.
   - Vanc/zosyn
   - empiric flagyl
   - d/c acyclovir [**3-20**], completed 2 week course
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - restart diltiazem 60mg qid today, d/c dilt gtt.
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - net goal negative fluid balance
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   FEN: ADAT.
   Prophylaxis: Pneumoboots/heparin sq, PPI, Bowel regimen
   Access: RIJ, will request a PICC line today, pulled out PICC line
   yesterday
   Full code
   DISPO: brother [**Name (NI) **] listed as HCP
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-03-21 12:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man who was found down, respiratory failure.  self extubated two
   days ago and had done well.  Is still confused, disoriented and
   respiratory status has been stable and up in chair today.
   24 Hour Events:
 PICC LINE - START [**2124-3-20**] 03:45 PM
 PICC LINE - STOP [**2124-3-20**] 09:30 PM
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Acyclovir - [**2124-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-21**] 01:00 AM
   Vancomycin - [**2124-3-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-21**] 08:00 AM
   Other medications:
   SSI
   vanco
   pepcid
   asa
   diltiazem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies SOB, no fever, no headache, no chest pain,
   no ventilatory support
   Flowsheet Data as of  [**2124-3-21**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 99 (73 - 101) bpm
   BP: 135/68(82) {118/59(76) - 168/129(175)} mmHg
   RR: 23 (20 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
   CVP: 23 (23 - 35)mmHg
   Total In:
                                                                  1,900 mL
                                                                    528 mL
   PO:
                                                                     90 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,810 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  2,110 mL
   Urine:
                                                                  4,480 mL
                                                                  2,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,580 mL
                                                                 -1,582 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): to self only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   13.1 g/dL
   413 K/uL
   146 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.1 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   41.1 %
   16.9 K/uL
        [image002.jpg]
                             [**2124-3-17**]  11:40 AM
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
                             [**2124-3-19**]  03:18 PM
                             [**2124-3-20**]  03:39 AM
                             [**2124-3-20**]  02:41 PM
                             [**2124-3-21**]  03:45 AM
   WBC
   11.4
   13.7
   14.0
   16.9
   Hct
   36.7
   38.4
   39.9
   41.1
   Plt
   296
   364
   414
   413
   Cr
   0.6
   0.7
   0.7
   0.8
   0.8
   0.7
   0.8
   0.7
   TCO2
   41
   35
   Glucose
   157
   177
   151
   179
   [**Telephone/Fax (2) 6950**]46
   Other labs: PT / PTT / INR:16.7/29.6/1.5, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:85.1 %, Band:0.0 %, Lymph:7.8
   %, Mono:4.7 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   ICU day 15
   respiratory failure:  found down,  Treated fully for meningitis and
   vanco/zosyn for ?VAP.  Breathing well off support.  Will complete vanco
   zosyn course on [**3-27**].
   leukocytosis:  has been increasing over past few days, unclear cause.
   check C. diff.  Will try and get rid of CVL and place pic line today.
   AFib:  rate controlled
   acute on chronic diastolic CHF:  diuresing well
   psoriasis: continue topical steroids
   is delirious possibly due to C. diff:  Start PO flagyl empirically.
   Will try to transfer straight to rehab.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-3-6**] 01:05 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2124-03-22 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC placed
   - Increased WBC, started flagyl empirically, c.diff sent
 PICC LINE - START [**2124-3-21**] 04:30 PM
 MULTI LUMEN - STOP [**2124-3-22**] 04:00 AM
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Acyclovir - [**2124-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-21**] 01:00 AM
   Vancomycin - [**2124-3-21**] 09:00 PM
   Piperacillin - [**2124-3-22**] 12:02 AM
   Metronidazole - [**2124-3-22**] 06:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-22**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-22**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (70 - 101) bpm
   BP: 129/74(86) {108/52(68) - 158/95(129)} mmHg
   RR: 25 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,160 mL
                                                                    294 mL
   PO:
                                                                    150 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,010 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                  1,440 mL
   Urine:
                                                                  3,460 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,300 mL
                                                                 -1,146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GEN: awake, conversant.  MAE
   HEENT: PEERL and brisk, intubated
   NECK: Supple, thick
   PULM:  Attenuated breath sounds; however, clear to auscultation
   anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: Obese, soft, NT, TD
   EXT: psoriasis
   NEURO: follows commands.  MAE.  AAOx3
   Labs / Radiology
   466 K/uL
   13.0 g/dL
   132 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   41.3 %
   14.4 K/uL
        [image002.jpg]
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
                             [**2124-3-19**]  03:18 PM
                             [**2124-3-20**]  03:39 AM
                             [**2124-3-20**]  02:41 PM
                             [**2124-3-21**]  03:45 AM
                             [**2124-3-22**]  03:25 AM
   WBC
   11.4
   13.7
   14.0
   16.9
   14.4
   Hct
   36.7
   38.4
   39.9
   41.1
   41.3
   Plt
   296
   364
   414
   413
   466
   Cr
   0.7
   0.7
   0.8
   0.8
   0.7
   0.8
   0.7
   0.8
   TCO2
   41
   35
   Glucose
   177
   151
   179
   [**Telephone/Fax (3) **]
   146
   132
   Other labs: PT / PTT / INR:17.4/33.7/1.6, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:85.1 %, Band:0.0 %, Lymph:7.8
   %, Mono:4.7 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 57 yo male with morbid obesity, OSA, DM, Afib, CHF, here with
   altered mental status leading to intubation, now transferred from
   [**Hospital Ward Name 57**] for MRI.
   # Altered mental status:
   Unclear etiology. Hypercarbia would not be wholly unexpected in this
   patient given his body habitus.  EEG results from [**3-7**]: abnormal in
   waking and sleeping states, with finding which can be seen with mild
   encephalopathy, medication effect, or extreme drowsiness. No focal
   abnormalities or epileptiform features.  MRI unable to be performed as
   patient was too large for scanner. Repeat CT scan to look for cerebral
   edema or evidence of anoxic brain injury unable to be performed due to
   patient
s weight.  Extubated on [**3-12**], mental status assessed and patient
   alert and able to follow commands but non-verbal.  Did not appear
   appropriate after extubation from mental status perspective, was
   reintubated shortly thereafter.  Etiology of AMS remains unclear at
   this point.  Infx vs. hypoxic/ischemic still not clear. Head CT from
   [**2124-3-14**] was negative. Remains on abx for meningitis.  Now with
   ?infiltrate on CXR c/f VAP, continued on abx.  Improved mental status
   off sedation.  Self extubated on [**3-19**] AM with stable resp function
   post-extubation.  Able to follow complex commands post-extubation,
   talking and responsive.  Today [**3-21**] with new delirium with increased
   WBC, diarrhea
   - c.diff
   - empiric flagyl
   - s/p 14d course acyclovir (end date [**3-20**])
   - will plan to treat for 7d course with vanco/zosyn (D1 [**3-20**]) for VAP,
   follow sputum cultures
   # Respiratory failure:
   Likely intubated in order to protect airway in setting of altered
   mental status. Patient is s/p difficult intubation using fiberoptic
   scope for intubation.  Extubated on [**3-12**], required reintubation with
   awake fiberoptic by anesthesia later in the PM on [**3-12**] due to worsening
   tachypnea despite BiPAP.  Mini-BAL performed [**3-13**] with no growth on
   final culture. Patient being maintained on PSV 10/10 now. Ongoing
   diuresis. Any attempt at extubation will require anesthesia on standby
   with airway kit and may require fiberoptic guided reintubation.  New
   c/f VAP given tan colored sputum.  Self extubated on [**3-19**] AM, stable
   resp status post-extubation, placed on BiPAP prophylactically, ABG
   stable.
   - close monitoring of respiratory status.
   - BiPAP as needed
   - follow VBG daily, f/u cultures
   - Cont tx with vanc/zosyn (D1 [**3-20**]) for possible vent assoc PNA, 7d
   course
   - lasix gtt d/c
d yesterday, will watch I/O for continued goal net
   negative.
   # Leukocytosis:
   WBC count has been fluctuating. Elevated WBC at presentation raises the
   possibility of infection as cause of AMS. Urine negative. ? RUL
   infiltrate on CXR, however poor study and difficult to interpret.
   Sputum culture only with growth of oropharyngeal flora. Unable to
   assess for h/o meningismus and therefore started on empiric treatment
   for this. BAL from [**3-13**] is negative at final culture result. All urine
   cultures negative. Only blood cultures still pending, but still with
   NGTD.  Elevated WBC today to 17 today from 14 yesterday, unclear cause
   but has new diarrhea.
   - Follow-up pending blood cultures.
   - Vanc/zosyn
   - empiric flagyl
   - d/c acyclovir [**3-20**], completed 2 week course
   # Atrial fib:
   Patient in A-fib with history of RVR in this hospitalization. Currenly
   well-controlled on oral diltiazem.
   - restart diltiazem 60mg qid today, d/c dilt gtt.
   - No coumadin [**1-10**] poor compliance.
   # CHF:
   Per history.  Difficult to assess volume status in this patient due to
   obesity. Received lasix at OSH for ? CHF. CVPs appear to be in mid to
   high teens.
   - net goal negative fluid balance
   # Psoriasis:
   Extensive.
   - On topical agents per most recent VA DC summary.
   # Diabetes
   Well-controlled at this time on HISS; long acting if needed.
   FEN: ADAT.
   Prophylaxis: Pneumoboots/heparin sq, PPI, Bowel regimen
   Access: PICC line
   Full code
   DISPO: brother [**Name (NI) **] listed as HCP
   ICU [**Name (NI) 81**]
   Nutrition: Clear liquids; Low sodium / Heart healthy,
   Diabetic/Consistent Carbohydrate [Started at: Clear liquids, Advance as
   tolerated to: Regular]
   Glycemic Control:  Sliding scale insulin
   Lines:
   PICC Line - [**2124-3-21**] 04:30 PM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient and brother [**Name (NI) **] (HCP)
   [**Name (NI) 36**] status: Full code
   Disposition: pending

2124-03-22 10:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M obesity, AF, OSA, psoriasis (severe) p/w encephalopathy/respiratory
   failure.  Has been doing well, but somewhat delirious
   24 Hour Events:
 PICC LINE - START [**2124-3-21**] 04:30 PM
 MULTI LUMEN - STOP [**2124-3-22**] 04:00 AM
   Allergies:
   Precedex (Intraven) (Dexmedetomidine Hcl)
   significant bra
   Last dose of Antibiotics:
   Acyclovir - [**2124-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2124-3-21**] 01:00 AM
   Piperacillin - [**2124-3-22**] 12:02 AM
   Metronidazole - [**2124-3-22**] 06:10 AM
   Vancomycin - [**2124-3-22**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-3-22**] 12:02 AM
   Other medications:
   SSI
   diltiazem
   pepcid
   asa
   TACO cream
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-3-22**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 82 (70 - 99) bpm
   BP: 141/70(103) {108/52(68) - 155/95(131)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,160 mL
                                                                    772 mL
   PO:
                                                                    150 mL
                                                                    320 mL
   TF:
   IVF:
                                                                  1,010 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                  1,920 mL
   Urine:
                                                                  3,460 mL
                                                                  1,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,300 mL
                                                                 -1,148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   13.0 g/dL
   466 K/uL
   132 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   41.3 %
   14.4 K/uL
        [image002.jpg]
                             [**2124-3-18**]  02:51 AM
                             [**2124-3-18**]  03:10 PM
                             [**2124-3-19**]  04:15 AM
                             [**2124-3-19**]  04:50 AM
                             [**2124-3-19**]  07:24 AM
                             [**2124-3-19**]  03:18 PM
                             [**2124-3-20**]  03:39 AM
                             [**2124-3-20**]  02:41 PM
                             [**2124-3-21**]  03:45 AM
                             [**2124-3-22**]  03:25 AM
   WBC
   11.4
   13.7
   14.0
   16.9
   14.4
   Hct
   36.7
   38.4
   39.9
   41.1
   41.3
   Plt
   296
   364
   414
   413
   466
   Cr
   0.7
   0.7
   0.8
   0.8
   0.7
   0.8
   0.7
   0.8
   TCO2
   41
   35
   Glucose
   177
   151
   179
   [**Telephone/Fax (3) **]
   146
   132
   Other labs: PT / PTT / INR:17.4/33.7/1.6, CK / CKMB /
   Troponin-T:229/6/0.02, ALT / AST:14/15, Alk Phos / T Bili:86/0.5,
   Amylase / Lipase:[**7-24**], Differential-Neuts:85.1 %, Band:0.0 %, Lymph:7.8
   %, Mono:4.7 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL,
   LDH:181 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: C. diff negaive x1
   Assessment and Plan
   Respiratory failure:  OSA, obesity hypoventilation
    Improved, speaking in complete sentences.  Doing well off the vent.
   VAP:  Day 6 of 8 for VAP
   acute on chronic diastolic HF/Fluid overload:  Continues to autodiurese
   Diarrhea:  started flagyl yesterday, if C. diff negative times 3, can
   stop
   AF with RVR on dilt, well controlled
   DM II:  Will start NPH insulin for high blood sugars
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-3-21**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: If not able to transfer to Rehab will go to
   floor
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes